
.subckt ZOH input output Ts=1ms duty=0.01

    * Input stage
    .param R = 10m
    .model SMOD sw vt=0.5 ron={R} roff=100Meg
    S1 input vcap pwm gnd SMOD
    C1 vcap gnd {Ts/(1000*R)}; making auto-adjusting bandwidth: RC << Ts

    * PWM sampler generator stage
    Bsawtooth  sawtooth  gnd  v=0.5+(time*{1/Ts}-floor(0.5+time*{1/Ts}))
    Bpwm       pwm       gnd  v={duty}>=v(sawtooth) ? 1 : 0

    * Output stage
    Buffer output gnd v={v(vcap)}
.ends ZOH
