** Ideal Single Phase Rectifier
*
* 
*        -------------------------------*  (+)  outpos
*        |                 |
*      __|__             __|__
*       / \               / \
*      /___\             /___\
*        |                 |
*        * inpos           * inneg
*        |   (+)           |   (-)
*        |                 |
*      __|__             __|__
*       / \               / \
*      /___\             /___\
*        |                 |
*        |                 |
*        -------------------------------*  (-)  outneg

* Rectifier Diodes
.subckt IRECTSINGLE inpos inneg outpos outneg       Vf=0    Rs=1m
    .include idiode.lib
    XD1     inpos       outpos      IDIODE1         Vf=Vf   Rs=Rs
    XD2     outneg      inpos       IDIODE1         Vf=Vf   Rs=Rs
    XD3     inneg       outpos      IDIODE1         Vf=Vf   Rs=Rs
    XD4     outneg      inneg       IDIODE1         Vf=Vf   Rs=Rs
    * D1        inpos       outpos      DIODE        
    * D2        outneg      inpos       DIODE        
    * D3        inneg       outpos      DIODE        
    * D4        outneg      inneg       DIODE        
.ends IRECTSINGLE
