.subckt DIODE_BRIDGE 1 2 3 4 5 bv=800 is=1e-13 n=1.05 rs=100m C=100pF
    D1 2 1 DMOD
	D2 3 1 DMOD
	D3 4 1 DMOD
	D4 5 2 DMOD
	D5 5 3 DMOD
	D6 5 4 DMOD
    .model DMOD D (bv={bv} is={is}
    + n={n} rs={rs} CJo={C})
.ends DIODE_BRIDGE
