** Unipolar Voltage Source
* Voltage source tied to ground
.subckt VUNI output voltage=1V
    Vs      output      gnd     {voltage}
.ends VUNI

* Same as VUNI, but meant for signal output
.subckt CTE output c=1
    Vs      output      gnd     {c}
.ends CTE
