**
*   N = n1/n2
*   Lm=k*sqrt(L1*L2) => {L1 = Lm*N/k    = Lm + Lσ1
*                       {L2 = Lm/(N*k)  = Lm + Lσ2
*   Lσ1 = Lm*(N/k -1)
*   Lσ2 = Lm*(k/N -1)
*
*
*
*   TRANSFORMER_1X1:
*
*                 k
*                 ⌒
*      1--------|    |--------4
*             ● | || | ●
*               8 || 8
*            L1 8 || 8 L2
*            n1 8 || 8 n2
*               | || |
*      2--------|    |--------3
*
*
*
.subckt TRANSFORMER_1X1 1 2 3 4 Lm=100uH N=10 k=1
  L1 1 2 {Lm*N}
  L2 4 3 {Lm/N}
  K1 L1 L2 {k}
.ends TRANSFORMER




*
*   TRANSFORMER_1X1_SWAPPED:
*
*                 k
*                 ⌒
*      1--------|    |--------4
*             ● | || |
*               8 || 8
*            L1 8 || 8 L2
*            n1 8 || 8 n2
*               | || | ●
*      2--------|    |--------3
*
*
*
.subckt TRANSFORMER_1X1_SWAPPED 1 2 3 4 Lm=100uH N=10 k=1
  L1 1 2 {Lm*N}
  L2 3 4 {Lm/N}
  K1 L1 L2 {k}
.ends TRANSFORMER_1X1_SWAPPED
