** Ammeter
*   Outputs the current flowing from node 1 to 2
*
*
*   1 ----(A)---- 2
*          ↓
*          i
*
*

.subckt AMMETER 1 2 out
  vIMeas 1 2 0V
  bOut out gnd v={i(vIMeas)}
.ends AMMETER
