** Sums: sums the input signals (with a gain) and outputs it
*
*                    ________
*  input1 >-------->|⛌ g1    |
*  input2 >-------->|⛌ g2    |
*  input3 >-------->|⛌ g3    |-------> output
*    :              |   :    |
*    :              |   :    |

.subckt SUM2 input1 input2 output   g1=1 g2=1 gout=1
*     Bout    output      gnd     v={g1*v(input1)+g2*v(input2)}
    a2 [input1 input2] output sum
    .model sum summer ( in_gain=[g1 g2] out_gain=gout )

.ends SUM2

.subckt SUM3 input1 input2 input3 output    g1=1 g2=1 g3=1 gout=1
*     Bout    output      gnd     v={g1*v(input1)+g2*v(input2)+g3*v(input3)}
    a3 [input1 input2 input3] output sum
    .model sum summer ( in_gain=[g1 g2 g3] out_gain=gout )
.ends SUM3

.subckt SUM4 input1 input2 input3 input4 output   g1=1 g2=1 g3=1 g4=1 gout=1
*     Bout    output      gnd     v={g1*v(input1)+g2*v(input2)+g3*v(input3)+g4*v(input4)}
    a4 [input1 input2 input3 input4] output sum
    .model sum summer ( in_gain=[g1 g2 g3 g4] out_gain=gout )
.ends SUM4

.subckt SUM5 input1 input2 input3 input4 input5 output   g1=1 g2=1 g3=1 g4=1 g5=1 gout=1
*     Bout    output      gnd     v={g1*v(input1)+g2*v(input2)+g3*v(input3)+g4*v(input4)+g5*v(input5)}
    a5 [input1 input2 input3 input4 input5] output sum
    .model sum summer ( in_gain=[g1 g2 g3 g4 g5] out_gain=gout )
.ends SUM5


* a3 [1 2 3] 4 sigmult
* . model sigmult mult ( in_offset =[0.1 0.1 -0.1]
* + in_gain =[10.0 10.0 10.0] out_gain =5.0 out_offset =0.05)
