** Models for ideal switch and N-channel MOSFET
* Note: the difference is that the triggering voltage is
* referenced from gate to source in the MOSFET and
* from gate to gnd(0, absolute voltage) for the switch.

.subckt INMOSFET drain gate source rdson=20m vgsth=0.5
  S1 drain source gate source switch
  .model switch sw ron=rdson vt=vgsth
.ends INMOSFET

.subckt ISWITCH drain gate source reson=20m vgth=0.5
  S1 drain source gate 0 switch
  .model switch sw ron=reson vt=vgth
.ends ISWITCH
